US09210927B2
Step 3. (E)-4-(3-(3,5-Dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-N-(2-oxo-2-(2,2,2-trifluoroethylamino)ethyl)-2-(trifluoromethoxy)benzamide (AC116)
A mixture of (E)-4-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-2-(trifluoromethoxy)benzoic acid (0.25 g, 0.52 mmol), 2-amino-N-(2,2,2-trifluoroethyl)acetamide (0.158 g, 0.62 mmol), PyBOP (0.40 g, 0.78 mmol) and DIPEA (0.134 g, 1.04 mmol) in CH2Cl2 (10.0 mL) were stirred at ambient temperature for 16 h. The reaction mixture was diluted with water and extracted with CH2Cl2. The combined CH2Cl2 layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. Purification by flash column chromatography (SiO2, 100-200 mesh; eluting with 20% ethyl acetate/pet ether) afforded the title compound as a pale yellow gummy material (0.15 g, 47%).

reactant | (E)-4-(3-(3,5-dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-2-(trifluoromethoxy)benzoic acid | 0.52 mmol, 0.25 g | ClC=1C=C(C=C(C1F)Cl)C(/C=C/C1=CC(=C(C(=O)O)C=C1)OC(F)(F)F)C(F)(F)F | C18H9Cl2F7O3
reactant | 2-amino-N-(2,2,2-trifluoroethyl)acetamide | 0.62 mmol, 0.158 g | NCC(=O)NCC(F)(F)F | C4H7F3N2O
reactant | PyBOP | 0.78 mmol, 0.40 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.04 mmol, 0.134 g | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 10.0 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (E)-4-(3-(3,5-Dichloro-4-fluorophenyl)-4,4,4-trifluorobut-1-enyl)-N-(2-oxo-2-(2,2,2-trifluoroethylamino)ethyl)-2-(trifluoromethoxy)benzamide | ClC=1C=C(C=C(C1F)Cl)C(/C=C/C1=CC(=C(C(=O)NCC(NCC(F)(F)F)=O)C=C1)OC(F)(F)F)C(F)(F)F | C22H14Cl2F10N2O3
